US04728735
Using the method of Example 17a reaction of o-aminothiophenol with acetone yielded 53% of 2,2-dimethylbenzothiazolidine b.p. 120° C./10.2 mm Hg.

reactant | o-aminothiophenol | NC1=C(C=CC=C1)S | C6H7NS
reactant | acetone | CC(=O)C | C3H6O
product | 2,2-dimethylbenzothiazolidine | 53% | CC1(SC2=C(N1)C=CC=C2)C | C9H11NS
